Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with history of T2DM presenting as a referral from her
PCP with concerns for cellulitis. She reportedly had some 
redness
and itching in her left hand and one red spot on her left arm
about 2 weeks ago and was treated with augmentin. However, 3 
days
ago she was noted to have redness in her right hand in the
distribution of two spots on either side of her arm. She then 
saw
her PCP yesterday who discontinued augmentin and started her on
doxycycline. Today she was noted to have redness that spread up
her R arm with streaking. She has had no fevers but has had
chills. 

In the ED, initial VS were 97.7 86 137/82 16 100% RA.
Labs with normal CBC, normal BMP, with bicarb of 19, with anion
gap of 20. 
___ medical providers thought that the patient may have MRSA
cellulitis (and had only received one ___ of doxycycline as an
outpatient) or there may be some component of allergic reaction
given pruritis. 
The patient received IV clindamycin, IV Benadryl, PO metformin,
PO atorvastatin, and IV vancomycin
Upon arrival to the floor, the patient tells the story as
follows. 

She reports that ___, she noticed a rash on
her left arm "with a bump "that she thought could be a "spider
bite ".  She reports that she had significant itching, for which
she tried peroxide.  She reports she had a red rash in between
her fingers of her left hand, which she treated with Benadryl
cream and a full dose of Augmentin.  Left and then resolved
completely.  She had previously no lesions on the right hand. 
Then, approximately 3 days ago, she was playing piano at church,
when she noticed that her right hand had some swelling.  At that
time she noticed a few red patches.  ___ morning, at work
while typing, she reported that she had swollen hand, with
multiple "bumps ".  She then saw her doctor who started her on
doxycycline and triamcinolone cream.  When she noticed that the
redness is worsening and creating streaks up her arm, she
subsequently presented to the hospital.

She has not had a rash like this before.  She does not have any
pets from which she has had scratches or bites recently.  She
reports that though initial rash on her left hand, originally
developed when she was taking down her artificial Christmas tree
and removing lights from bushes.  She notes she had several 
bouts
of diarrhea, once after trying walnuts, and another time after
incorporating P constant.  She cannot think of any topical
exposures.  She denies fevers, but endorses chills.  She denies
wheeziness, difficulty breathing, shortness of breath, chest
pain, abdominal pain, nausea, vomiting, numbness and tingling.
She reports she has had significant improvement since being in
our emergency room. She felt that the clindamycin did not 
improve
her symptoms, but ultimately, the vancomycin did.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Benign neoplasm of breast
- Carpal tunnel syndrome
- Obesity
- Type 2 DM
- History of adenomatous polyp of the colon
- Hyperlipidemia

 
Social History:
___
Family History:
Daughter with asthma. No FH of rheumatologic
disease.  
 
Physical Exam:
Admission:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: + mild erythema on the right arm faintly appearing within
the lines of demarcation, small pustular lesions on right arm,
mild swelling of right hand
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

Discharge:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: minimal swelling but no erythema on the right arm 
appearing
within the lines of demarcation, small pustular lesions on right
arm are drying up. mild swelling of right hand
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission:

___ 02:35PM   GLUCOSE-112* UREA N-8 CREAT-0.7 SODIUM-142 
POTASSIUM-4.8 CHLORIDE-103 TOTAL CO2-19* ANION GAP-20*
___ 02:35PM   estGFR-Using this
___ 02:35PM   ALT(SGPT)-20 AST(SGOT)-32 ALK PHOS-78 TOT 
BILI-0.2
___ 02:35PM   WBC-8.3 RBC-5.33* HGB-14.0 HCT-44.9 MCV-84 
MCH-26.3 MCHC-31.2* RDW-13.0 RDWSD-39.5
___ 02:35PM   NEUTS-49.2 ___ MONOS-4.8* EOS-2.3 
BASOS-0.2 IM ___ AbsNeut-4.08 AbsLymp-3.60 AbsMono-0.40 
AbsEos-0.19 AbsBaso-0.02
___ 02:35PM   PLT COUNT-328

Discharge:

___ 06:05AM BLOOD WBC-6.1 RBC-4.38 Hgb-11.4 Hct-37.0 MCV-85 
MCH-26.0 MCHC-30.8* RDW-12.9 RDWSD-39.5 Plt ___
___ 06:05AM BLOOD Glucose-163* UreaN-9 Creat-0.6 Na-145 
K-4.9 Cl-107 HCO3-24 AnGap-14
___ 02:35PM BLOOD Neuts-49.2 ___ Monos-4.8* Eos-2.3 
Baso-0.2 Im ___ AbsNeut-4.08 AbsLymp-3.60 AbsMono-0.40 
AbsEos-0.19 AbsBaso-0.02
___ 02:35PM BLOOD ALT-20 AST-32 AlkPhos-78 TotBili-0.2
___ 06:05AM BLOOD Calcium-9.2 Phos-3.6 Mg-1.9
___ 11:41PM BLOOD ___ pO2-54* pCO2-49* pH-7.37 
calTCO2-29 Base XS-1 Comment-GREEN TOP

 
Brief Hospital Course:
___ yo F with history of T2DM presenting as a referral from her 
PCP with right upper extremity cellulitis.

ACUTE/ACTIVE PROBLEMS:
# Right upper extremity cellulitis: Patient with right upper 
extremity cellulitis, initially with lymphangitis, with mild 
pustular lesions along the right arm. Likely related to 
scratches she got on both hands/arms when trying to remove 
Christmas lights from evergreen trees in her front yard. She was 
initially treated with doxycycline but her R arm developed 
streaking up her right arem. According to the patient, she did 
not have significant improvement when trialed on IV clindamycin 
in the ED, but noted significant improvement once started on IV 
vancomycin. Her cellulitis improved significantly after 3 days 
of IV vancomycin. She will continue Keflex and Bactrim for 11 
more days for total 14 ___ course (end date ___

CHRONIC/STABLE PROBLEMS:
# HLD:
- Continue atorvastatin 20 mg daily

# DM:
- Continued home metformin
- Diabetic consistent carbohydrate diet

Transitional Issues:
[] PCP follow up to evaluate progression of cellulitis

More than 30 minutes were spent preparing this discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 
2. Triamcinolone Acetonide 0.025% Cream 1 Appl TP BID 
3. Doxycycline Hyclate 100 mg PO Q12H 
4. MetFORMIN XR (Glucophage XR) 1500 mg PO QAM 
5. MetFORMIN XR (Glucophage XR) 500 mg PO QPM 
6. Atorvastatin 20 mg PO QPM 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 tablet(s) by mouth every 6 hours Disp 
#*44 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 2 TAB PO BID Duration: 11 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice daily Disp #*44 Tablet Refills:*0 
3.  Atorvastatin 20 mg PO QPM  
4.  MetFORMIN XR (Glucophage XR) 1500 mg PO QAM  
5.  MetFORMIN XR (Glucophage XR) 500 mg PO QPM 
Do Not Crush  
6.  Multivitamins 1 TAB PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: RUE cellulitis
Secondary: HLD, DM

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ because you had a skin and soft 
tissue infection. We treated you with an IV antibiotic and your 
infection got better. You will follow up with your PCP to ensure 
continued improvement of the infection. You will take the Keflex 
and Bactrim for 14 days total (11 more days).

We wish you the best.

Sincerely,

Your care team at ___

 
Followup Instructions:
___